Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
single car ___
 
Major Surgical or Invasive Procedure:
___ Posterior Fusion Laminectomy C6-C7  
___ FUSION CERVICAL ANTERIOR WITH INSTRUMENTATION C6-C7 

 
History of Present Illness:
___ s/p transferred to ___ from ___, where she was 
originally brought in by EMS due to MVC. Patient was found 
unrestrained and lethargic in a single vehicle collision the 
morning of ___, found wedged between the dashboard and steering 
wheel; no report of prolonged extrication or ejection. VSS on 
EMS transfer, but upon presentation to ___, intubated in ED 
for combativeness, altered mental status, and airway protection. 
Initial CT scanning at ___ showed a CT head with SAH, and 
numerous injuries including superior facet fx at C7; widened 
facet at C6-7, R side pleural hemothorax; multiple T-spine 
fractures with T4/5 transverse process, T3/6 - spinus process 
fx; T7 with small amount of retropulsion, L2 transverse process 
fx. Laboratory evaluation notable for stable CBC, chemistries 
but urine tox positive methamphetamines, TCH, and serum ETOH 
180. Patient transferred to ___ for trauma, neurosurgery, 
spine evaluation. Noted to be moving all extremities at ___ 
___, but on initial evaluation in ___ with decreased 
sedation, difficult ability to assess lower extremity movement. 
No report at OSH or in ___ ED of additional external injuries on 
exam. In addition to prior injuries found on CT the MRI revealed 
a small ventral epidural hematoma at C5-T1 with no significant 
mass effect on the spinal canal, and abnormal high signal within 
the thoracic spinal cord at T6-7, consistent with contusion and 
edema. 

 
Past Medical History:
-hx of thyroid nodules  
-hx of mild persistsant asthma, previously on proair and 
fluticasone, but no script since ___  
-hx of migraines  

 
Social History:
___
Family History:
NC
 
Physical Exam:
PHYSICAL EXAMINATION upon admission:  ___
 
Constitutional: intubated sedated
HEENT: Pupils equal, round and reactive to light 3->2 bilat.
Small abrasion and contusion right scalp
ccollar in place. intubated
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm, Normal first and
second heart sounds
Abdominal: Soft, Nontender, Nondistended
Extr/Back: No cyanosis, clubbing or edema. Contusion to R
forearm. Back nontender, no stepoff, no skin changes.
Skin: Normal
Neuro: 3T sedated. Noted to move BUE spontaneously.
Psych: unable to assess

Physical examination:  upon discharge:  ___:

vital signs:  t=99.5, hr=102, bp=143/83, rr=16, oxygen 
saturation=99% room air

CV:  ns1,s2, -s3, -s4
LUNGS: clear
ABDOMEN:  soft, non-tender
EXT:  + dp bil., left foot cool, muscle st. left leg 0, right 
leg +5/+5., + dp  right foot, + radial pulse bil., PICC line 
with DSD right antecubital
SKIN:  intact, steri strips intact ant and post aspect of neck
NEURO:  sleepy, opens eye to name, follows ___
 

 
___ Results:
Chest x-ray:  ___:

ET tube tip is 4.5 cm above the carinal.  Right PICC line tip is 
in the right atrium and should be pulled back approximately 2 
cm.  NG tube tip is in the stomach 

IMPRESSION:  
  
There is an endotracheal tube whose distal tip is 3.8 cm above 
the carina. 
Heart size is upper limits of normal. There are low lung volumes 
without focal consolidation.  There is some atelectasis at the 
lung bases.  No 
pneumothoraces are seen. There is an air-filled stomach. 

PELVIS (AP ONLY) 

IMPRESSION:  
  
No acute fractures or dislocations are seen. Bilateral hip joint 
spaces are preserved.  The visualized lower lumbar spine is 
within normal limits. There is contrast seen within the bladder 
and a Foley catheter is also seen. 

FOREARM (AP & LAT) RIGH

IMPRESSION:  
  
No acute fractures or dislocations are seen. Joint spaces are 
preserved 
without significant degenerative changes. There is normal 
osseous 
mineralization. There are no radiopaque foreign densities. 

MR CERVICAL SPINE W/O CONTRAST

IMPRESSION: 
  
  
1. Focal disruption of the anterior longitudinal ligament, 
posterior 
longitudinal ligament and ligamentum flavum at C6-7 with 
probable interspinous and supraspinous ligamentous strain/tear. 
2. Small ventral epidural hematoma at C5-T1 with no significant 
mass effect on the spinal canal or spinal canal stenosis. 
3. Widening and fluid in the right C6-7 facet, suggestive of 
capsular injury. 
4. Abnormal high signal within the thoracic spinal cord at T6-7, 
consistent with contusion and edema. 
5. Mild widening and small amount of fluid in the left T6-7 
facet suggestive of capsular injury. 
6. Perched right T6-7 facet with left T7 superior articular 
facet fracture 
better seen on the prior CT.  Recommend a dedicated CT of the 
thoracic spine for further evaluation. 
7. High-signal in the T6-7 interspinous space and ligamentum 
flavum, 
suggestive of strain/tear. 
8. STIR signal hyperintensity paralleling the superior endplates 
of T10, T11, and perhaps T9, without height loss raising the 
possibility of contusions. 
9. Partially visualized 4.6 cm right adnexal lesion, likely 
representing a 
simple cyst. 
10. Large right pleural effusion with layering dependent 
hemorrhage. 
  
RECOMMENDATION(S):  Thoracic spine CT for further evaluation 

CT HEAD W/O CONTRAST Study Date of ___ 10:11 AM 

IMPRESSION:  
  
Stable appearance of subarachnoid hemorrhage, punctate 
hemorrhagic contusions and subdural hematoma along the falx and 
tentorium.  No significant mass effect. 

___ 08:34AM BLOOD WBC-10.1* RBC-3.21* Hgb-8.8* Hct-28.1* 
MCV-88 MCH-27.4 MCHC-31.3* RDW-14.0 RDWSD-42.9 Plt ___
___ 04:57AM BLOOD WBC-11.1* RBC-3.16* Hgb-8.7* Hct-28.1* 
MCV-89 MCH-27.5 MCHC-31.0* RDW-14.0 RDWSD-44.3 Plt ___
___ 01:48AM BLOOD WBC-10.4* RBC-2.98* Hgb-8.2* Hct-26.4* 
MCV-89 MCH-27.5 MCHC-31.1* RDW-13.9 RDWSD-44.4 Plt ___
___ 07:55AM BLOOD WBC-14.7* RBC-3.94 Hgb-11.0* Hct-35.8 
MCV-91 MCH-27.9 MCHC-30.7* RDW-13.8 RDWSD-45.6 Plt ___
___ 02:01AM BLOOD Neuts-71.3* Lymphs-17.2* Monos-9.0 
Eos-1.4 Baso-0.2 Im ___ AbsNeut-6.43* AbsLymp-1.55 
AbsMono-0.81* AbsEos-0.13 AbsBaso-0.02
___ 08:34AM BLOOD Plt ___
___ 04:57AM BLOOD Glucose-112* UreaN-10 Creat-0.5 Na-140 
K-3.9 Cl-105 HCO3-25 AnGap-14
___ 01:48AM BLOOD Glucose-112* UreaN-9 Creat-0.5 Na-139 
K-4.0 Cl-103 HCO3-26 AnGap-14
___ 04:57AM BLOOD Calcium-8.7 Phos-4.1 Mg-2.3
___ 01:58AM BLOOD TSH-1.6
___ 01:58AM BLOOD T4-5.9
___ 02:36PM BLOOD Vanco-9.5*
___ 07:55AM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 02:18AM BLOOD Type-ART pO2-116* pCO2-41 pH-7.43 
calTCO2-28 Base XS-3
___ 02:18AM BLOOD Lactate-0.7
___ 02:18AM BLOOD freeCa-1.11*
 
Brief Hospital Course:
Ms. ___ presented as a transfer from ___ to ___ s/p 
MVC intubated and sedated with +etoh/marijuana, SAH w/ C7 facet 
fx, T4/5 transverse process, T4/6 spinus fx, T7 fx, L2 
transverse process fx, and a right hemothorax on ___. She 
was triaged as stat trauma and subsequently admitted to the 
Trauma ICU. Spine/Neurosurgery were emergently consulted. 

 ___: Admitted to TICU, intubated, sedated. Interval hcts 
stable and MRI C/T/L spine performed notable for unstable 
ligamentous injury at level of prior noted facet injuries, and 
small mid thoracic syrinx. Given her hemothorax, a right pigtail 
was placed with 470cc bloody output. No further injuries 
identified.
 
 ___: She was taken to the OR for anterior fusion C6-7 which 
was uncomplicated. She was noted to be agitated, and 
subsequently started on precedex. 
 ___: Given concern of increased secretions and increased PEEP, 
pt. underwent a bronchoscopy and subsequent mini BAL which was 
negative for organisms.    
 ___: Pt. was taken to OR for posterior fusion of cervical 
spine with minimal EBL and returned off pressors. Spine surgery 
further recommended non operative management for T-spine 
injuries that included a TLSO.  
 ___: Pt. noted to be increasingly agitated, and was started on 
clonidine patch and Seroquel.  
 ___ : Pt. was more comfortable after medication change. 
However was noted to have more secretions and elevated temps 
with a CXR consistent with LLL colapse. After a series of 
bronchoscopies and subsequent BAL, she was noted to be positive 
for GPCs/GPRs/GNRS and was therefore started on Vanc/cefepime. 
She subsequently improved from a ventilation standpoint, as well 
as agitation.  
 ___: She was then extubated and per report of concerns for 
a suicidal attempt, psychiatry was consulted and pt. was placed 
on a 1:1 sitter pending collateral pending evaluation. Per 
recommendation she was placed on prn Haldol which was 
subsequently weaned, and her clonidine was discontinued. A 
feeding tube that was placed upon admission was subsequently 
removed and she passed a bedside speech and swallow. She was 
transitioned to PO medications and transferred to the floor. 

The patient transferred to the surgical floor on ___.  She was 
evaluated by physical and  occupational therapy in preparation 
for discharge.  Her vital signs have been stable and she has 
been afebrile.  She has been tolerating a regular diet and 
voiding without difficulty.  She has been getting out of bed 
with the ___ brace with the assistance of physical therapy. 
There was concern for aspiration on Colace and the patient was 
evaluated by Speech and Swallow.  She was cleared for thin 
liquids and ground solids, 1:1 supervision, and aspiration 
precautions.  Her oral intake has been about 700cc.  On ___ she 
was noted to have dark urine and a urine specimen was sent which 
showed no bacteria growth.  The patient had difficulty voiding 
and was retaining, for that reason a foley catheter was placed.  
She will be discharged with the foley catheter in place and 
attempts to remove to be made at rehab. ___ brace to be 
donned while in bed, prior to getting out of bed.    

The patient was discharged to rehab on ___ in stable condition.  
She will need follow-up appointments with the acute care surgery 
service and with the spine service.  

*****

The patient will be discharged with the PICC line and foley 
catheter.   
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Bisacodyl 10 mg PR QHS:PRN constipation  
2. Docusate Sodium 100 mg PO BID 
3. Famotidine 20 mg PO Q12H 
4. Heparin 5000 UNIT SC TID 
5. Heparin Flush (10 units/ml) 2 mL IV DAILY and PRN, line flush 

6. Ipratropium-Albuterol Neb 1 NEB NEB Q6H PRN wheeze 
7. LORazepam 0.5-1 mg PO Q6H:PRN  anxiety 
8. OxycoDONE Liquid 15 mg PO Q3H:PRN pain 
9. Polyethylene Glycol 17 g PO DAILY:PRN constiaption 
10. Senna 8.6 mg PO BID 
11. Acetaminophen (Liquid) 650 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
s/p MVC
SAH 
C7 facet fracture
T4/5 transverse process fracture
T4/6 spinous process fracture
T7 fracture 
L2 transverse process fracture
Right hemothorax

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair (with brace for neck and back support)

 
Discharge Instructions:
You were admitted to the hospital after you were involved in a 
motor vehicle crash.  You sustained injuries to your neck and 
back, as well as a small bleed in your head and a fluid 
collection in your lung.  You were taken to the operating room 
for a neck fusion or stabilization.  You were fitted for a brace 
for support of your upper and lower back. You will need to place 
the brace on when in bed before you get up.   Your pain has been 
controlled with oral analgesia.  Your vital signs have been 
stable and you are preparing for discharge to a rehabilitation 
center to further regain your strength and mobility.  
 
Followup Instructions:
___